* ELDO netlist generated with ICnet by 'vlsi' on Tue Oct 10 2017 at 04:50:42

.CONNECT GND 0
.SUBCKT dhalllay vdd gnd out d clk n_clk_esc1
*
* Globals.
*
.global VDD GND

*
* MAIN CELL: Component pathname : /home/vlsi/Desktop/150102060/Pyxis/6flip
*
        MP8 N$28 CLK N$23 VDD p L=1.8e-07 W=1.26e-06
        MN8 N$28 N_CLK_ESC1 N$23 GND n L=1.8e-07 W=3.6e-07
        MP7 N$18 N_CLK_ESC1 N$23 VDD p L=1.8e-07 W=1.26e-06
        MN7 N$18 CLK N$23 GND n L=1.8e-07 W=3.6e-07
        MP6 N$18 N$13 VDD VDD p L=1.8e-07 W=1.26e-06
        MN6 N$18 N$13 GND GND n L=1.8e-07 W=3.6e-07
        MN9 N$28 OUT GND GND n L=1.8e-07 W=3.6e-07
        MP5 N$13 N$7 VDD VDD p L=1.8e-07 W=1.26e-06
        MN5 N$13 N$7 GND GND n L=1.8e-07 W=3.6e-07
        MP4 N$12 N$13 VDD VDD p L=1.8e-07 W=1.26e-06
        MN4 N$12 N$13 GND GND n L=1.8e-07 W=3.6e-07
        MP3 N$12 N_CLK_ESC1 N$7 VDD p L=1.8e-07 W=1.26e-06
        MN3 N$12 CLK N$7 GND n L=1.8e-07 W=3.6e-07
        MP2 N$2 CLK N$7 VDD p L=1.8e-07 W=1.26e-06
        MN2 N$2 N_CLK_ESC1 N$7 GND n L=1.8e-07 W=3.6e-07
        MP1 N$2 D VDD VDD p L=1.8e-07 W=1.26e-06
        MN1 N$2 D GND GND n L=1.8e-07 W=3.6e-07
        MP10 OUT N$23 VDD VDD p L=1.8e-07 W=1.26e-06
        MN10 OUT N$23 GND GND n L=1.8e-07 W=3.6e-07
        MP9 N$28 OUT VDD VDD p L=1.8e-07 W=1.26e-06
*
.ends


